US05102667
A mixture of 2-fluoroacetophenone (19.9 g), morpholine (21 cc) and potassium carbonate (27.6 g) in dimethyl sulphoxide (32 cc) is heated at 110° C. for 30 hours. The reaction mixture is diluted with water (100 cc) and extracted with ethyl acetate (4×100 cc); the organic solution is washed with distilled water (100 cc), dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a silica gel column (0.04-0.063 mm, diameter 9 cm, height 40 cm), eluting with a mixture of cyclohexane and ethyl acetate (80/20 by volume) and collecting 250 cc fractions. Fraction 24 to 44 are combined and concentrated to dryness under reduced pressure (2.7 kPa). 2-(4-Morpholinyl)acetophenone (4.72 g) is obtained which is used as such for the subsequent syntheses.

reactant | 2-fluoroacetophenone | 19.9 g | FCC(=O)C1=CC=CC=C1 | C8H7FO
reactant | morpholine | 21 cc | N1CCOCC1 | C4H9NO
reactant | potassium carbonate | 27.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulphoxide | 32 cc | CS(=O)C | C2H6OS
solvent | water | 100 cc | O | H2O
product | 2-(4-Morpholinyl)acetophenone | 4.72 g | N1(CCOCC1)CC(=O)C1=CC=CC=C1 | C12H15NO2
